US07452911B2
3.72d 1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-pyrrolidin-3-one
0.43 mL (5.32 mmol) pyridine and 2.26 g (0.80 mmol, 15 percent by weight) Dess-Martin-periodinane in DCM are added to a solution of 200 mg (0.53 mmol) (R)-1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-pyrrolidin-3-ol in 10 mL DCM. The reaction mixture is stirred for 3 h at RT and added to a solution of semisaturated NaHCO3 solution and tert-butylmethylether. The aqueous phase is extracted twice with EtOAc. The organic phase is dried over MgSO4 and the solvent is eliminated i.vac. The product is further reacted without purification.

reactant | pyridine | 5.32 mmol, 0.43 mL | N1=CC=CC=C1 | C5H5N
reactant | (R)-1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-pyrrolidin-3-ol | 0.53 mmol, 200 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=NC1)N1C[C@@H](CC1)O | C22H18ClN3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | tert-butylmethylether | C(C)(C)(C)OC | C5H12O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-pyrrolidin-3-one | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=NC1)N1CC(CC1)=O | C22H16ClN3O
